US05789607
A mixture of 20.7 g (26.5 mmol) of (1α,3β)-[[25-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]cholesta-5,7,16-trien-23-yn-1-yl]oxy]triethylsilane and 265 mL (265 mmol) of 1M Bu4NF in tetrahydrofuran was stirred at 30°-35° C. for 40 hr. After cooling to room temperature, 265 mL of EtOAc and 265 mL of water were added. The aqueous layer was extracted with 2×125 mL of EtOAc. The combined EtOAc solutions were concentrated to dryness. The residue was suspended in 130 mL of hexane and 130 mL of water, and the mixture was stirred for 30 min prior to filtration. The solid was washed with 130 mL of water and then with 130 mL of hexane. After being dried by suction, the solid was dissolved in 90 mL of hot methanol. After the solution was diluted with 45 mL of water and cooled to room temperature, the mixture was stored in a refrigerator overnight. The precipitate was filtered and washed with 100 mL of methanol-water (2:1). Drying at room temperature under high vacuum for 24 hr gave 9.37 g of (1α,3β)-cholesta-5,7,16-trien-23-yne-1,3,25-triol

reactant | (1α,3β)-[[25-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]cholesta-5,7,16-trien-23-yn-1-yl]oxy]triethylsilane | 26.5 mmol, 20.7 g | CC(C)(C)[Si](OC(C)(C)C#CC[C@@H](C)C1=CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O[Si](CC)(CC)CC)O[Si](C(C(C)C)(C)C)(C)C)(C)C | C47H84O3Si3
reactant | Bu4NF | 265 mmol, 1M, 265 mL | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | EtOAc | 265 mL | CCOC(=O)C | C4H8O2
reactant | water | 265 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (1α,3β)-cholesta-5,7,16-trien-23-yne-1,3,25-triol | 9.37 g | CC(C)(C#CC[C@@H](C)C1=CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)O | C27H38O3
